US06593333B1
Using analogous procedures to those described in the portion of Example 2 which is concerned with the preparation of starting materials, 4-chloro-6,7-dimethoxyquinazoline was reacted with 2-methyl-5-nitroaniline to give 4-(2-methyl-5-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride; Mass: M+H+ 341 and that material was reduced during 5 hours to give 4-(5-amino-2-methylanilino)-6,7-dimethoxyquinazoline; Mass: M+H+ 311.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 2-methyl-5-nitroaniline | CC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O2
product | 4-(2-methyl-5-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride | Cl.CC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C(C=C1)[N+](=O)[O-] | InChI=1S/C17H16N4O4.ClH/c1-10-4-5-11(21(22)23)6-13(10)20-17-12-7-15(24-2)16(25-3)8-14(12)18-9-19-17;/h4-9H,1-3H3,(H,18,19,20);1H
